US09065061B2
Step 1: Synthesis of 3-isopropyl-5-(2-naphthyl)-4-phenyl-4H-1,2,4-triazole (abbreviation: HiPrntz)
First, 5.7 g of N-[1-(ethylsulfanyl)isobutylidene]aniline, 4.4 g of 2-naphthohydrazide, and 40 mL of 1-butanol were put in a 100 mL three-neck flask, and heated and stirred at 120° C. for 20 hours to be reacted. After the reaction, 1-butanol was distilled off to give a brown oily substance. Toluene was added to this oily substance, whereby a solid was precipitated, and then filtrated to give the solid. The resulting solid was recrystallized from toluene, so that 2.7 g of 3-isopropyl-5-(2-naphthyl)-4-phenyl-4H-1,2,4-triazole (abbreviation: HiPrntz) was prepared as a white solid with a yield of 37%. The synthetic scheme of Step 1 is shown by (a-13). As described above, the objective compound of Example 14 has a favorable yield.

reactant | N-[1-(ethylsulfanyl)isobutylidene]aniline | 5.7 g | C(C)SC(C(C)C)=NC1=CC=CC=C1 | C12H17NS
reactant | 2-naphthohydrazide | 4.4 g | C1=C(C=CC2=CC=CC=C12)C(=O)NN | C11H10N2O
reactant | 1-butanol | 40 mL | C(CCC)O | C4H10O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 3-isopropyl-5-(2-naphthyl)-4-phenyl-4H-1,2,4-triazole | yield of 37% | C(C)(C)C1=NN=C(N1C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1 | C21H19N3
